US05561101
2-(2-(4,4-dimethyl-oxazolin-2-yl)-α-bromobenzyl)-4,6-dimethoxypyrimidine (Table C, cpd. no. 62)
0.55 g of 2-(2-(4,4-dimethyl-oxazolin-2-yl)-benzyl)-4,6-dimethoxypyrimidine, 0.30 g of a N-bromosuccinimide, 0.03 g of benzoyl peroxide are dissolved in 60 ml of CCl4 and heated under reflux overnight at 75° C. The reaction mixture is filtered and the filtrate washed with 5% NaHCO3 solution (50 ml), 50 ml of water and the organic phase separated and concentrated to give the title compound.

reactant | 2-(2-(4,4-dimethyl-oxazolin-2-yl)-benzyl)-4,6-dimethoxypyrimidine | 0.55 g | CC1(N=C(OC1)C1=C(CC2=NC(=CC(=N2)OC)OC)C=CC=C1)C | C18H21N3O3
reactant | N-bromosuccinimide | 0.30 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.03 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 60 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(2-(4,4-dimethyl-oxazolin-2-yl)-α-bromobenzyl)-4,6-dimethoxypyrimidine | CC1(N=C(OC1)C1=C(C(Br)C2=NC(=CC(=N2)OC)OC)C=CC=C1)C | C18H20BrN3O3
